US07718693B2
1-Cyclobutyl-5-oxoproline (0.238 g, 0.82 mmol) was suspended in dichloromethane (3 ml) and to this was added N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (0.188 g, 0.98 mmol), 1-Hydroxybenzotriazole (0.132 g, 0.98 mmol), and N-ethyl morpholine (0.313 ml, 2.46 mmol). The mixture was stirred at room temperature for 30 minutes and then {[2-chloro-3-(trifluoromethyl)phenyl]methyl}amine (0.205 g, 0.98 mmol) was added to the mixture and stirring continued for ˜20 hrs at room temperature. The mixture was then diluted with more dichloromethane and treated with saturated aqueous sodium hydrogen carbonate. The dichloromethane layer was separated and the aqueous layer was extracted with 3 further aliquots of dichloromethane. The combined organic extracts were washed with water and then with brine, dried over anhydrous magnesium sulphate and evaporated in vacuo to give the crude product. This was further purified by mass-directed automated HPLC to give pure N-{[2-chloro-3-(trifluoromethyl)phenyl]methyl}-1-cyclobutyl-5-oxoprolinamide (0.105 g) as a white solid.

reactant | 1-Cyclobutyl-5-oxoproline | 0.82 mmol, 0.238 g | C1(CCC1)N1[C@H](C(=O)O)CCC1=O | C9H13NO3
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.98 mmol, 0.188 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-Hydroxybenzotriazole | 0.98 mmol, 0.132 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-ethyl morpholine | 2.46 mmol, 0.313 ml | C(C)N1CCOCC1 | C6H13NO
reactant | {[2-chloro-3-(trifluoromethyl)phenyl]methyl}amine | 0.98 mmol, 0.205 g | ClC1=C(C=CC=C1C(F)(F)F)CN | C8H7ClF3N
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | N-{[2-chloro-3-(trifluoromethyl)phenyl]methyl}-1-cyclobutyl-5-oxoprolinamide | 0.105 g | ClC1=C(C=CC=C1C(F)(F)F)CNC([C@H]1N(C(CC1)=O)C1CCC1)=O | C17H18ClF3N2O2
